US07696347B2
1-(4-Methoxymethyl-phenyl)ethanone
To a mixture of 4′-bromoacetophenone (300 mg, 1.51 mmol) and 1,4-dioxane (4 ml) were added water (0.4 ml), cesium carbonate (1.48 g, 4.54 mmol), potassium methoxymethyl trifluoroborate (459 mg, 3.02 mmol) and 1′,1′-bis(diphenylphosphino)ferrocenedichloropalladium (II) (110 mg, 0.151 mmol). Then, the reaction mixture was stirred at 100° C. (external temperature) for 7 hours. After the reaction mixture was cooled at room temperature, water and methylene chloride were added to the mixture, followed by filtration using Celite. The separated organic layer was washed with an aqueous saturated sodium chloride solution. The organic layer was separated, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (heptane/ethyl acetate) to obtain the title compound (76 mg, 31%).

reactant | 4′-bromoacetophenone | 1.51 mmol, 300 mg | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
reactant | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
reactant | water | 0.4 ml | O | H2O
reactant | cesium carbonate | 4.54 mmol, 1.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(4-Methoxymethyl-phenyl)ethanone | 76 mg, 31% | COCC1=CC=C(C=C1)C(C)=O | C10H12O2
